US04087536
A mixture was prepared by admixing together in a 1.0 liter-3-necked round bottomed flask 144.0 grams (1.5 moles) of 1,2-dimethylimidazole, 189.3 grams (1.5 moles) of 3-methyl-2-thiophenecarboxaldehyde and 450 cubic centimeters (cc) of acetic anhydride. The flask was equipped with a stirrer, thermometer and a 12 foot distillation column. The mixture was stirred and heated at ~150° C. for ~2 hours. The temperature increased to ~160° C. At this time 250 cc of the distillate (mostly acetic acid by-product and acetic anhydride) had been collected. An additional 250 cc of acetic anhydride was added to the reaction flash and the heating continued until the temperature again rose to ~160° C. At this time about 320 cc of the distillate had been collected. The reaction mixture in the flask was thereafter concentrated under vacuum giving a residue of 427.0 grams. This residue was mixed with 500 cc of isopropyl alcohol and the resulting dark colored solution concentrated under vacuum giving a residue of 410 grams. This residue was distilled under reduced pressure. The first fraction (124 grams, boiling at 72°-76° C/0.2-0.4 millimeters of mercury (mm)) consisted mainly of starting material. The main fraction, which was the free base of the desired compound was collected in a yield of 155 grams and boiled at 172°-174° C/0.6 mm. The thick tarry pot residue weighed 115 grams. The main fraction was mixed with 150 cc of ethanol and 150 cc of concentrated hydrochloric acid. The insoluble yellow crystals which formed were filtered, washed with ~1.0 liter of ethanol and dried to give 126.3 grams of 1-methyl-2-(2-(3-methyl-2-thienyl)ethenyl)1H-imidazole:monohydrochloride, (Compound I) melting at 287°-288° C. The product was recovered in a yield of 34.9 percent of theoretical.

reactant | 1,2-dimethylimidazole | 1.5 moles, 144.0 grams | CN1C(=NC=C1)C | C5H8N2
reactant | 3-methyl-2-thiophenecarboxaldehyde | 1.5 moles, 189.3 grams | CC1=C(SC=C1)C=O | C6H6OS
reactant | acetic anhydride | 450 cubic centimeters | C(C)(=O)OC(C)=O | C4H6O3
solvent | isopropyl alcohol | 500 cc | C(C)(C)O | C3H8O
product | 1-methyl-2-(2-(3-methyl-2-thienyl)ethenyl)1H-imidazole | 126.3 grams, yield of 34.9 percent | CN1C(=NC=C1)C=CC=1SC=CC1C | C11H12N2S
